US08420855B2
Preparation of 5-(3-chloro-benzoylamino)-2-phenoxy-benzoic acid methyl ester
5-Amino-2-phenoxy-benzoic acid methyl ester (972 mg, 4.00 mmol) (prepared according to WO 01/046171) was dissolved in a biphasic mixture of ethyl acetate (10 ml) and aqueous sodium bicarbonate (1N) (10 ml). 3-Chloro-benzoylchloride (770 μl, 6 mmol) was added under vigorous stirring. The mixture was stirred for 18 hours at ambient temperature. The phases were separated, the organic phase was dried over sodium sulfate and concentrated. The residue was used without further purification.

reactant | 5-Amino-2-phenoxy-benzoic acid methyl ester | 4.00 mmol, 972 mg | COC(C1=C(C=CC(=C1)N)OC1=CC=CC=C1)=O | C14H13NO3
reactant | 3-Chloro-benzoylchloride | 6 mmol, 770 μl | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | 1N, 10 ml | C([O-])(O)=O.[Na+]
product | 5-(3-chloro-benzoylamino)-2-phenoxy-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)NC(C1=CC(=CC=C1)Cl)=O)OC1=CC=CC=C1)=O | C21H16ClNO4
